US07256198B2
Step 2: 1-Methyl-4-[(2S)-pyrrolidin-2-ylmethyl]piperazine
To a flame dried 3 neck 250 mL round bottom flask fitted with dry ice condenser, ammonia (50 mL) was condensed at −78° C. using an acetone bath. 1-Methyl-4-({(2S)-1-[(4-methylphenyl)sulfonyl]pyrrolidin-2-yl}methyl)piperazine (2.562 g, 7.790 mmol) dissolved in THF (40 mL), EtOH (2 mL) and NH3 (40 mL) was transferred via syringe into the reaction vessel. Lithium (0.500 g, 72.000 mmol) was added by small pieces into the stirred solution. Acetone bath was then removed and the reaction was allowed to reflux for 2 hours and then warmed up to rt. The reaction was quenched with H2O (50 mL) basified to pH 11 with ammonium hydroxide and extracted with EtOAc (3×). The aqueous layer was re-extracted with CH2Cl2/MeOH (90/10) and the combined organic extracts were dried over Na2SO4, filtered and concentrated to give the title compound as a yellow oil (1.300 g, 93% ). NMR (400 Mz, DMSO-d6): consistent. Reference: (Tetrahedron, 43(14), 3289, 1987).

reactant | 1-Methyl-4-({(2S)-1-[(4-methylphenyl)sulfonyl]pyrrolidin-2-yl}methyl)piperazine | 7.790 mmol, 2.562 g | CN1CCN(CC1)C[C@H]1N(CCC1)S(=O)(=O)C1=CC=C(C=C1)C | C17H27N3O2S
reactant | EtOH | 2 mL | CCO | C2H6O
reactant | NH3 | 40 mL | N | H3N
reactant | Lithium | 72.000 mmol, 0.500 g | [Li] | Li
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | 1-Methyl-4-[(2S)-pyrrolidin-2-ylmethyl]piperazine | 1.300 g, 93% | CN1CCN(CC1)C[C@H]1NCCC1 | C10H21N3
